US05589474
(c) 4,8-Bis(trifluoromethyl)-10,11-dihydrodibenzo[b,f][1,4]thiazepin-11-thione
4,8-Bis(trifluoromethyl)-10,11-dihydrodibenzo[b,f][1,4]thiazepin-11-one (0.54 g) was dissolved in pyridine (15 ml). Phosphorus pentasulphide (0.60 g) was added to the solution and the whole was stirred under reflux for 6 hours, then cooled and left overnight. Addition of water (40 ml) and cooling gave a yellow solid which was filtered off, washed with water and recrystallised from ethanol to give the product as yellow needles (0.26 g, m/s. M- =379).

reactant | 4,8-Bis(trifluoromethyl)-10,11-dihydrodibenzo[b,f][1,4]thiazepin-11-one | 0.54 g | FC(C1=CC=CC=2C(NC3=C(SC21)C=CC(=C3)C(F)(F)F)=O)(F)F | C15H7F6NOS
reactant | Phosphorus pentasulphide | 0.60 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | water | 40 ml | O | H2O
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 4,8-Bis(trifluoromethyl)-10,11-dihydrodibenzo[b,f][1,4]thiazepin-11-thione | 0.26 g | FC(C1=CC=CC=2C(NC3=C(SC21)C=CC(=C3)C(F)(F)F)=S)(F)F | C15H7F6NS2
